US05789595
To 125 ml of suspension in ethanol of 136 g of 7-nitro-1,2,3,4-tetrahydroisoquinoline hydrochloride was added 98 ml of triethylamine and 83 ml of ethyl acrylate, and the solution was heated and stirred overnight under reflux. The solution was concentrated under reduced pressure, and the residue was extracted with ethyl acetate, washed with water, and dried with anhydrous sodium sulfate. After separating the desiccant by filtration, the filtrate was concentrated under reduced pressure to obtain 2-(2-(ethoxycarbonyl)ethyl)-7-nitro-1,2,3,4-tetrahydroisoquinoline. The thus obtained 2-(2-(ethoxycarbonyl)ethyl)-7-nitro-1,2,3,4-tetrahydroisoquinoline was dissolved in 1,000 ml of ethanol, and a catalytic amount of 10% palladium-carbon was added to the solution. The solution was stirred overnight under hydrogen atmosphere. The catalyst was separated by filtration, and the filtrate was concentrated under reduced pressure to obtain 7-amino-2-(2-(ethoxycarbonyl)ethyl)-1,2,3,4-tetrahydroisoquinoline, which was a solid.

reactant | 7-nitro-1,2,3,4-tetrahydroisoquinoline hydrochloride | 136 g | Cl.[N+](=O)([O-])C1=CC=C2CCNCC2=C1
reactant | triethylamine | 98 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl acrylate | 83 ml | C(C=C)(=O)OCC | C5H8O2
solvent | ethanol | C(C)O | C2H6O
product | 2-(2-(ethoxycarbonyl)ethyl)-7-nitro-1,2,3,4-tetrahydroisoquinoline | C(C)OC(=O)CCN1CC2=CC(=CC=C2CC1)[N+](=O)[O-] | C14H18N2O4
